US05180741
Stage A: 1-oxo-6-indanecarbonitrile
2 g of 6-bromo-indanone, 10 ml of dimethylformamide and 3 g of copper cyanide are taken to reflux for 20 hours. At 20° C. the reaction mixture is poured into 40 ml of water and 30 ml of methylene chloride, agitated for 15 minutes and filtered on celite. The filtrate is decanted and re-extracted with methylene chloride. The organic phase is washed with water, dried, brought to dryness under reduced pressure and the residue is chromatographed on silica in a hexane-ethyl acetate mixture as eluant (7-3). 1.03 g of expected product is obtained, M.p.=109° C.

reactant | 6-bromo-indanone | 2 g | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | copper cyanide | 3 g | [Cu](C#N)C#N
reactant | water | 40 ml | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-oxo-6-indanecarbonitrile | 1.03 g | O=C1CCC2=CC=C(C=C12)C#N | C10H7NO
